US07449475B2
(i) 1-Benzyl-4-[2-fluoro-5-(trifluoromethyl)benzyl]piperidin-4-ol
To a stirring suspension of Mg strips (308 mg) in Et2O (5 mL) was added a crystal of iodine followed by 0.3 mL of 2-(bromomethyl)-1-fluoro-4-(trifluoromethyl)benzene under argon. The reaction was initiated with a high intensity heat gun, then 2-(bromomethyl)-1-fluoro-4-(trifluoromethyl)benzene (2.5 g, 9.73 mmol) in Et2O (5 mL) was added slowly (maintaining reflux). After addition was completed the reaction mixture was refluxed for 50 min, cooled to room temperature. A solution of 1-benzylpiperidin-4-one (1.84 g, 9.73 mmol) in Et2O (10 mL) was added slowly with vigorous stirring. After addition was completed, the reaction mixture was left at room temperature for 50 min, saturated aqueous NH4Cl solution was added and stirred at room temperature untill hydrolysis was finished, extracted with ethyl acetate. The combined organic layer was washed with water, dtied over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-1% methanol in dichloromethane, 0.2% NH4OH) to give the subtitled compound (720 mg).

reactant | iodine | II | I2
reactant | 2-(bromomethyl)-1-fluoro-4-(trifluoromethyl)benzene | 0.3 mL | BrCC1=C(C=CC(=C1)C(F)(F)F)F | C8H5BrF4
reactant | 2-(bromomethyl)-1-fluoro-4-(trifluoromethyl)benzene | 9.73 mmol, 2.5 g | BrCC1=C(C=CC(=C1)C(F)(F)F)F | C8H5BrF4
reactant | 1-benzylpiperidin-4-one | 9.73 mmol, 1.84 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 1-Benzyl-4-[2-fluoro-5-(trifluoromethyl)benzyl]piperidin-4-ol | 720 mg | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=CC(=C1)C(F)(F)F)F | C20H21F4NO
